US08703937B2
(S)-6-{[(Benzyloxy)carbonyl]amino}-2-bromohexanoic acid, Compound IV
(S)-2-Amino-6-{[(benzyloxy)carbonyl]amino}hexanoic acid, 20.0 g (0.14 mole), and potassium bromide, 28.9 g (0.24 mole), were dissolved in 80 mL of ˜6N aqueous HBr, previously chilled to 0° C. A stream of nitrogen was bubbled through the solution and the mixture was chilled to −10° C. by means of a cold bath. Sodium nitrite, 5.9 g (0.86 mole) was added in portions over 30 min with stirring, while maintaining the temperature of the reaction from −13° C. to −10° C. After 6 hours stirring at −10° C., the mixture was extracted with ethyl ether, 4×50 mL and the resulting solution dried with magnesium sulfate. The mixture was filtered to remove the drying agent and evaporated to give an orange oil. The oil was purified by flash chromatography, chloroform-hexanes to give a clear and colorless oil. The yield was 20.0 g, i.e., 81%, based on starting 2-amino-6-{[(benzyl-oxy)carbonyl]-amino}hexanoic acid. NMR is consistent with structure. (Nicolaides et al.)

reactant | (S)-2-Amino-6-{[(benzyloxy)carbonyl]amino}hexanoic acid | N[C@H](C(=O)O)CCCCNC(=O)OCC1=CC=CC=C1 | C14H20N2O4
reactant | potassium bromide | [Br-].[K+]
reactant | 2-amino-6-{[(benzyl-oxy)carbonyl]-amino}hexanoic acid | NC(C(=O)O)CCCCNC(=O)OCC1=CC=CC=C1 | C14H20N2O4
solvent | HBr | ˜6N, 80 mL | Br | BrH
product | (S)-6-{[(Benzyloxy)carbonyl]amino}-2-bromohexanoic acid | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)O)Br | C14H18BrNO4
